US06211215B1
Sodium hydride (oily, 60%, 660 mg) was added to a solution of 2-[(E)-2-phenylethenyl]-4-oxazolylmethanol (3.02 g) in N,N-dimethylformamide (30 ml) and stirred at 90° C. for 30 minutes, to which was added a solution of 2-chloro-5-[3-(1-imidazolyl)propyl]pyridine (1.10 g) in N,N-dimethylformamide (10 ml). The resultant was stirred at 90° C. for 14 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate and brine, dried (MgSO4), and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane-methanol (10:1:0.5, v/v), crystals of 5-[3-(1-imidazolyl)propyl]-2-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]pyridine (900 mg, 47%) was obtained. Recrystallization ethyl acetate-hexane gave pale brown prisms, mp 120-121° C.

reactant | Sodium hydride | 660 mg | [H-].[Na+]
reactant | 2-[(E)-2-phenylethenyl]-4-oxazolylmethanol | 3.02 g | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CO | C12H11NO2
reactant | 2-chloro-5-[3-(1-imidazolyl)propyl]pyridine | 1.10 g | ClC1=NC=C(C=C1)CCCN1C=NC=C1 | C11H12ClN3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-[3-(1-imidazolyl)propyl]-2-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]pyridine | 900 mg, 47% | N1(C=NC=C1)CCCC=1C=CC(=NC1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C23H22N4O2
